US07465745B2
Synthesis of 2-(7-fluoro-2-oxo-2H-benzo[e][1,3]oxazin-4-ylamino)-5,5-dimethyl-heptanoic acid (4-cyano-1-propyl-piperidin-4-yl)-amide
2-Chloro-1-methylpyridinium iodide (365 mg, 1.43 mmol, 1.00 eq) was added to a suspension of 7-fluoro-4-thioxo-3,4-dihydro-benzo[e][1,3]oxazin-2-one (280 mg, 1.42 mmol, 1.00 eq), 2-amino-5,5-dimethyl-heptanoic acid (4-cyano-1-propyl-piperidin-4-yl)-amide (627 mg, 1.42 mmol, 1.00 eq), and N,N-diisopropyl ethylamine (1.00 mL, 5.74 mmol, 4.04 eq) in THF (10.0 mL). The reaction mixture was stirred at room temperature overnight, then concentrated, resuspended in ethyl acetate (50 mL) and washed with saturated Na2CO3 solution. The organic phase was dried (MgSO4) and concentrated and the resulting residue was chromatographed over silica gel using a gradient of methanol in dichloromethane as the eluant to provide 324 mg (47% yield) of the title compound; m/z calculated for C26H36F N5O3 485.6, found 486.5 (M+H)+.

reactant | 2-Chloro-1-methylpyridinium iodide | 1.43 mmol, 365 mg, 1.00 eq | [I-].ClC1=[N+](C=CC=C1)C
reactant | 7-fluoro-4-thioxo-3,4-dihydro-benzo[e][1,3]oxazin-2-one | 1.42 mmol, 280 mg, 1.00 eq | FC1=CC2=C(C(NC(O2)=O)=S)C=C1 | C8H4FNO2S
reactant | 2-amino-5,5-dimethyl-heptanoic acid (4-cyano-1-propyl-piperidin-4-yl)-amide | 1.42 mmol, 627 mg, 1.00 eq | C(#N)C1(CCN(CC1)CCC)NC(C(CCC(CC)(C)C)N)=O | C18H34N4O
reactant | N,N-diisopropyl ethylamine | 5.74 mmol, 1.00 mL, 4.04 eq | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | 2-(7-fluoro-2-oxo-2H-benzo[e][1,3]oxazin-4-ylamino)-5,5-dimethyl-heptanoic acid (4-cyano-1-propyl-piperidin-4-yl)-amide | 324 mg, 47% yield | C(#N)C1(CCN(CC1)CCC)NC(C(CCC(CC)(C)C)NC1=NC(OC2=C1C=CC(=C2)F)=O)=O | C26H36FN5O3
